US05041460
4-[5-[2-[(Morpholinocarbonyl)amino]ethyl]-1-methylindol-3-yl-methyl]-3-methoxy-N-(2-chlorophenylsulfonyl)benzamide
Using a similar procedure to that described in Example 2, part c, except starting from 4-[5-[2-[(morpholinocarbonyl)amino]ethyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid, and using 2-chlorophenylsulfonamide instead of 2-methylphenylsulfonamide, the title compound was obtained (45%) as a white solid; mp 175°-181° C.

reactant | 4-[5-[2-[(morpholinocarbonyl)amino]ethyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid | O1CCN(CC1)C(=O)NCCC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)O)C=C1)OC | C25H29N3O5
reactant | 2-chlorophenylsulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
product | 4-[5-[2-[(Morpholinocarbonyl)amino]ethyl]-1-methylindol-3-yl-methyl]-3-methoxy-N-(2-chlorophenylsulfonyl)benzamide | O1CCN(CC1)C(=O)NCCC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)Cl)C=C1)OC | C31H33ClN4O6S
